US04675332
3-Hydroxy-1-(4-methoxyphenyl)-1H-indole-2-carboxylic acid methyl ester
Prepared in a manner analogous to the multi-step procedure described [P. Friedlander and K. Kunz, Chem. Ber., 55, 1597 (1922)] for the preparation of 3-hydroxy-1-phenyl-1H-indole-2-carboxylic acid methyl ester, with 2-(4-methoxyphenylamino)benzoic acid substituted for 2-(phenylamino)benzoic acid in the first step of the synthetic sequence. The final indole product was recrystallized from 2-propanol to yield analytically pure product, mp 153°-155° C.

reactant | 3-hydroxy-1-phenyl-1H-indole-2-carboxylic acid methyl ester | COC(=O)C=1N(C2=CC=CC=C2C1O)C1=CC=CC=C1 | C16H13NO3
reactant | 2-(4-methoxyphenylamino)benzoic acid | COC1=CC=C(C=C1)NC1=C(C(=O)O)C=CC=C1 | C14H13NO3
reactant | 2-(phenylamino)benzoic acid | C1(=CC=CC=C1)NC1=C(C(=O)O)C=CC=C1 | C13H11NO2
product | 3-Hydroxy-1-(4-methoxyphenyl)-1H-indole-2-carboxylic acid methyl ester | COC(=O)C=1N(C2=CC=CC=C2C1O)C1=CC=C(C=C1)OC | C17H15NO4
